US07507740B2
Production of 2-[(2-chloro-4-nitrophenoxy)methyl]benzonitrile
To a solution of 2-chloro-4-nitrophenol (3.5 g) and 2-(bromomethyl)benzonitrile (4.0 g) in N,N-dimethylformamide (50 mL) was added potassium carbonate (3.7 g), and the mixture was stirred at room temperature for 30 min. After the completion of the reaction, water (50 mL) was added, and the mixture was stirred for 10 min. The resultant pale-yellow solid was collected by filtration. The residue washed with diisopropyl ether, and dried to give the title compound (5.04 g) as pale-yellow crystals.

reactant | 2-chloro-4-nitrophenol | 3.5 g | ClC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H4ClNO3
reactant | 2-(bromomethyl)benzonitrile | 4.0 g | BrCC1=C(C#N)C=CC=C1 | C8H6BrN
reactant | potassium carbonate | 3.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 50 mL | O | H2O
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 2-[(2-chloro-4-nitrophenoxy)methyl]benzonitrile | 5.04 g | ClC1=C(OCC2=C(C#N)C=CC=C2)C=CC(=C1)[N+](=O)[O-] | C14H9ClN2O3
